US04118461
1. 5-(2,4-dichlorophenyl) hexan-1-ol
A slurry of m-dichlorobenzene, 735 g. (5.0 mole) and anhydrous aluminium chloride, 162 g. (1.1 mole) is cooled to 10° using an ice-water bath and 1,2-epoxyhexane, 100 g. (1.0 mole) is added dropwise over a one hour period. The temperature of the reaction is kept below 15°. The reaction mixture is allowed to come to room temperature and stirring is continued overnight. The reaction mixture is then poured into a 4 liter flask containing ice and concentrated hydrochloric acid (50 ml.) with stirring. The aqueous and organic layers are separated and the aqueous layer extracted three times with ether (150 ml). The combined organic extracts are washed twice with water (50 ml) and dried over magnesium sulfate. Solvent is evaporated and vacuum distillation (160°-172°/0.1 mm) gives 114 g. (46%) of product.

reactant | m-dichlorobenzene | ClC1=CC(=CC=C1)Cl | C6H4Cl2
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-epoxyhexane | O1CC1CCCC | C6H12O
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 5-(2,4-dichlorophenyl) hexan-1-ol | ClC1=C(C=CC(=C1)Cl)C(CCCCO)C | C12H16Cl2O
